US08030438B2
(6) Synthesis of 3″′,4″-bis(diethoxyphosphoryl)-[2,2′;5′,2″;5″,2″′;5″′,2″″;5″″,2″″′]-sexithiophene
At room temperature, 0.0065 g (0.0056 mmols) of commercially available tetrakistriphenylphosphine palladium and 0.0818 g (0.28 mmols) of 2-iodobithiophene were dissolved in DMF. Thereafter, 0.1345 g (0.14 mmols) of 3,3′-bis(diethoxyphosphoryl)-5,5′-bis(tributylstannyl)-[2,2′]-bithiophene was added at room temperature. The reaction mixture was heated and stirred under reflux for 5 hours. After the reaction, the reaction mixture was cooled down to room temperature, to which a potassium fluoride aqueous solution was added, followed by stirring for 2 hours. Thereafter, the solid was removed by celite filtration and the filtrate was extracted with ethyl acetate. The organic phase was washed with a saturated saline solution and dried over anhydrous sodium sulfate. The solvent was removed by distilling off under reduced pressure, and the resulting crude product was purified with a PTLC plate (developed with ethyl acetate:hexane=1:5 and ethyl acetate:hexane=1:1) to obtain the specified substance in the form of a yellow solid at a yield of 0.0451 g (yield: 42%).

reactant | 2-iodobithiophene | 0.28 mmols, 0.0818 g | IC1(SC=CC1)C=1SC=CC1 | C8H7IS2
reactant | 3,3′-bis(diethoxyphosphoryl)-5,5′-bis(tributylstannyl)-[2,2′]-bithiophene | 0.14 mmols, 0.1345 g | C(C)OP(=O)(OCC)C1=C(SC(=C1)[Sn](CCCC)(CCCC)CCCC)C=1SC(=CC1P(=O)(OCC)OCC)[Sn](CCCC)(CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3″′,4″-bis(diethoxyphosphoryl)-[2,2′;5′,2″;5″,2″′;5″′,2″″;5″″,2″″′]-sexithiophene | yield: 42% | C(C)OP(=O)(OCC)C1=C(SC(=C1)C=1SC(=CC1)C=1SC=CC1)C1=C(C=C(S1)C1=CC=C(S1)C=1SC=CC1)P(=O)(OCC)OCC | C32H32O6P2S6
